US07884101B2
Preparation of 1-{3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-4-[2-(3-hydroxy-azetidin-1-yl)-ethoxy]-phenyl}-3-(4-chloro-phenyl)-urea (Compound 298)
4-Chlorophenylisocyanate (19.0 mg, 0.124 mmol) was added to a solution of 1-{2-[4-amino-2-(4-chloro-2-methyl-2H-pyrazol-3-yl)-phenoxy]-ethyl}-azetidin-3-ol (40.0 mg, 0.124 mmol) in dichloromethane (2.0 mL) and DMF (0.1 mL), and the mixture stirred at room temperature overnight. The solution was concentrated and purified by RP-HPLC. The collected fractions were concentrated and 12% sodium hydroxide (aq) (0.2 mL) was added to give pH 9. The solution was extracted into ethyl acetate and the organic layer was dried over sodium sulfate, filtered, and evaporated to dryness to give a white solid (28 mg, 47%). LCMS m/z (%)=476 (M+H 35Cl, 100), 478 (M+H 37Cl, 67). 1H NMR (400 MHz, DMSO-d6) δ: 8.81 (bs, 1H), 8.71 (bs, 1H), 7.60 (s, 1H), 7.53-7.50 (m, 11H), 7.47 (d, J=2.08 Hz, 1H), 7.46 (d, J=2.10 Hz, 1H), 7.36 (d, J=2.71 Hz, 1H), 7.32 (d, J=2.11 Hz, 1H), 7.30 (d, J=2.04 Hz, 1H), 7.11 (d, J=9.06 Hz, 1H), 5.19 (d, J=8.00 Hz, 1H), 4.10-4.00 (m, 1H), 3.99-3.85 (m, 2H), 3.65 (s, 311), 3.40-3.30 (m, 2H), 2.70-2.55 (m, 4H).

reactant | 4-Chlorophenylisocyanate | 0.124 mmol, 19.0 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 1-{2-[4-amino-2-(4-chloro-2-methyl-2H-pyrazol-3-yl)-phenoxy]-ethyl}-azetidin-3-ol | 0.124 mmol, 40.0 mg | NC1=CC(=C(OCCN2CC(C2)O)C=C1)C=1N(N=CC1Cl)C | C15H19ClN4O2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 1-{3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-4-[2-(3-hydroxy-azetidin-1-yl)-ethoxy]-phenyl}-3-(4-chloro-phenyl)-urea | 28 mg, 47% | ClC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1CC(C1)O)NC(=O)NC1=CC=C(C=C1)Cl | C22H23Cl2N5O3
